US07115634B2
N-(3,3-diphenylpropyl)-N-{1-[(4-methoxyphenyl)sulphonyl]-4-piperidinyl}-N′-[3-(trifluoromethyl)phenyl]urea (C35H36F3N3O4S, M=651.75)
27.5 mg (100 μmol, 2 eq.) of morpholinomethyl resin is preswollen in anhydrous tetrahydrofuran, then 4-methoxyphenylsulphonyl chloride (15.5 mg, 0.075 mmol, 1.5 eq.) then N-(3,3-diphenylpropyl)-N-(4-piperidinyl)-N′-[3-(trifluoromethyl)phenyl]urea (24.3 mg, 0.05 mmol) are added. The mixture is agitated overnight. The aminomethyl (20 mg) and SAX ion exchange resins are added and the mixture is agitated overnight. The resins are filtered and rinsed with dichloromethane. The oil obtained after evaporation is passed through a silica gel cartridge (500 mg, Interchim) eluting with ethyl acetate in order to obtain 18 mg (yield=56%) of a white solid after concentration.

reactant | 4-methoxyphenylsulphonyl chloride | 0.075 mmol, 15.5 mg, 1.5 eq. | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
reactant | N-(3,3-diphenylpropyl)-N-(4-piperidinyl)-N′-[3-(trifluoromethyl)phenyl]urea | 0.05 mmol, 24.3 mg | C1(=CC=CC=C1)C(CCN(C(=O)NC1=CC(=CC=C1)C(F)(F)F)C1CCNCC1)C1=CC=CC=C1 | C28H30F3N3O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N-(3,3-diphenylpropyl)-N-{1-[(4-methoxyphenyl)sulphonyl]-4-piperidinyl}-N′-[3-(trifluoromethyl)phenyl]urea | 18 mg, yield=56% | C1(=CC=CC=C1)C(CCN(C(=O)NC1=CC(=CC=C1)C(F)(F)F)C1CCN(CC1)S(=O)(=O)C1=CC=C(C=C1)OC)C1=CC=CC=C1 | C35H36F3N3O4S
